* D:\Ltspice\esercizi\LTspiceXVII\Progettazione_circuiti_elettronici\PROGETTAZIONE OPAMP\AD8066_AD8033\AD8033&AD8067_confronto_stabilita'_slewRate.asc
R1 N001 0 1k
R2 vout1 N001 9k
V1 N002 0 PULSE(0 1 10n 10n 10n 500n 1u 2) AC 1
V2 vdd 0 12
V3 0 vss 12
R3 vout1 0 1k
C1 vout1 0 1p
XU2 vin1 N001 vdd vss vout1 AD8067
R4 vin1 N002 40k
C2 vin1 0 1p
R5 N003 0 1k
R6 vout2 N003 9k
V4 vin2 0 PULSE(0 1 10n 10n 10n 500n 1u 2) AC 1
R7 vout2 0 1k
C3 vout2 0 1p
XU1 vin2 N003 vdd vss vout2 AD8067
* THE RC CIRCUIT IN THE INPUT ACT AS POLE SPLITTER, INTRODUCING A POLE APPROSIMATELY AT 4Mhz..
* THIS RESOLVE THE PROBLEM OF THE AD8067 OF HIGH INSTABILITY EVEN AT GAINS OF 10.
* BEFORE THIS, IT CAN BE SEEN A RESONANCE SPIKE THAT IS ATTENUATED BY THE POLE SPLITTING
;tran 2u
.ac dec 100 100 100000000
.lib ADI.lib
.backanno
.end
